US05547967
3-{3-[N-(2-(3,4-Dimethoxyphenyl)-ethyl)-N-methylamino]-propyloxy}-5-(3,4-dimethoxyphenyl)-pyrazole.
1.31 g of triphenylphosphine were dissolved in 15 ml of tetrahydrofuran. 1.6 ml of a solution of 0.8 ml of ethyl azodicarboxylate in 0.8 ml of toluene were added dropwise to the solution at a temperature of 5° C. After 5 minutes a solution of 1.1 g of 5-(3,4-dimethoxyphenyl)-pyrazolin-3-one in 10 ml of dimethylformamide was added dropwise. After 20 minutes a solution of 1.26 g of 3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-N-methylamino]-propanol in 10 ml of tetrahydrofuran was added dropwise. The reaction mixture was subsequently stirred at 20° C. for 48 hours. The reaction mixture was then evaporated to dryness. The resulting crude product was purified by flash chromatography in accordance with the method described in Example 1 E). 1.14 g of the title compound were obtained as an oily base. This base was converted as described in Example 1 E), to the hydrochloride having a melting point of from 189° to 192° C.

reactant | triphenylphosphine | 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | 0.8 ml | N(=NC(=O)[O-])C(=O)OCC
reactant | 5-(3,4-dimethoxyphenyl)-pyrazolin-3-one | 1.1 g | COC=1C=C(C=CC1OC)C1CC(NN1)=O | C11H14N2O3
reactant | 3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-N-methylamino]-propanol | 1.26 g | COC=1C=C(C=CC1OC)CCN(C)CCCO | C14H23NO3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | toluene | 0.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-{3-[N-(2-(3,4-Dimethoxyphenyl)-ethyl)-N-methylamino]-propyloxy}-5-(3,4-dimethoxyphenyl)-pyrazole | 1.14 g | COC=1C=C(C=CC1OC)CCN(C)CCCOC1=NNC(=C1)C1=CC(=C(C=C1)OC)OC | C25H33N3O5
